US07893020B2
(B) (3,4,5-trifluoro)-D,L-Phenylalanine hydrochloride
N-(Diphenylmethylene) (3,4,5-trifluoro)-D,L-Phenylalanine ethyl ester (1.33 g, 3.2 mmol) was suspended in water (15 mL) at 25° C. and treated with conc. hydrochloric acid (5 mL). The mixture was heated at reflux for 4 hrs and evaporated to dryness. The residue was triturated with diethyl ether (4×20 mL). The solid was filtered and dried to afford title compound (0.72 g)

reactant | N-(Diphenylmethylene) (3,4,5-trifluoro)-D,L-Phenylalanine ethyl ester | 3.2 mmol, 1.33 g | C(C)OC(C(N=C(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC(=C(C(=C1)F)F)F)=O | C24H20F3NO2
reactant | hydrochloric acid | 5 mL | Cl | ClH
solvent | water | 15 mL | O | H2O
product | (3,4,5-trifluoro)-D,L-Phenylalanine hydrochloride | 0.72 g | Cl.FC=1C=C(CC(N)C(=O)O)C=C(C1F)F | InChI=1S/C9H8F3NO2.ClH/c10-5-1-4(2-6(11)8(5)12)3-7(13)9(14)15;/h1-2,7H,3,13H2,(H,14,15);1H
